US04880822
N-(4-Amino-3-pyridinyl)-1H-indol-1-amine N1 -oxide
A mixture of N-(4-nitro-3-pyridinyl)-1H-indol-1-amine N1 -oxide (5 g) and 0.5 g of platinum oxide in 250 ml of ethanol was hydrogenated at 50 psi (pounds per square inch) for four hours. The mixture was filtered and the filtered liquid was concentrated to a dark residue which was purified by flash chromatography (silica, 10% methanol in dichloromethane) to give 2.5 g of solid, d 235°. This material was recrystallized from methanol/ether to give 2.1 g of crystals, d 235°.

reactant | N-(4-nitro-3-pyridinyl)-1H-indol-1-amine N1 -oxide | 5 g | [N+](=O)([O-])C1=C(C=NC=C1)[NH+](N1C=CC2=CC=CC=C12)[O-] | C13H10N4O3
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.5 g | [Pt]=O
product | N-(4-Amino-3-pyridinyl)-1H-indol-1-amine N1 -oxide | 2.5 g | NC1=C(C=NC=C1)[NH+](N1C=CC2=CC=CC=C12)[O-] | C13H12N4O
